* Subcircuit 2to4decoderv1
.subckt 2to4decoderv1 /vdd /in1 /in2 /d0 /d1 /d2 /d3 /ena 
* c:\fossee\esim\library\subcircuitlibrary\2to4decoderv1\2to4decoderv1.cir
.include andgatev1.sub
.include notgatev1.sub
x1 /vdd /in1 net-_x1-pad3_ notgatev1
x2 /vdd /in2 net-_x2-pad3_ notgatev1
x3 /vdd net-_x1-pad3_ net-_x2-pad3_ /ena /d0 andgatev1
x4 /vdd /in1 net-_x2-pad3_ /ena /d1 andgatev1
x5 /vdd /in2 net-_x1-pad3_ /ena /d2 andgatev1
x6 /vdd /in2 /in1 /ena /d3 andgatev1
* Control Statements

.ends 2to4decoderv1