* c:\fossee\esim\library\subcircuitlibrary\notgatev1\notgatev1.cir

m2  /not_output /not_input gnd gnd mosfet_n
m1  /not_output /not_input /vdd /vdd mosfet_p
* u1  /vdd /not_input /not_output port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
