* c:\users\prem\esim-workspace\2to4decoderv1\2to4decoderv1.cir
.lib "sky130_fd_pr/models/sky130.lib.spice" tt

.include andgatev1.sub
.include notgatev1.sub
x1 vdd in1 net-_x1-pad3_ notgatev1
x2 vdd in2 net-_x2-pad3_ notgatev1
x3 vdd net-_x1-pad3_ net-_x2-pad3_ ena d0 andgatev1
x4 vdd in1 net-_x2-pad3_ ena d1 andgatev1
x5 vdd in2 net-_x1-pad3_ ena d2 andgatev1
x6 vdd in2 in1 ena d3 andgatev1

Vdd vdd 0 3.3
Vin_1 ena 0 3
Vd0 in1 0 pulse(0 3 0s 0s 0s 5us 10us)
Vd1 in2 0 pulse(0 3 0s 0s 0s 10us 20us)

.tran 0.1us 20us

* Control Statements 
.control
run
plot V(in1) V(in2)+5 V(ena)+10 V(d0)+15 V(d1)+20 V(d2)+25 V(d3)+30
.endc
.end
