* Subcircuit 2to4decoderv1
.subckt 2to4decoderv1 vdd in1 in2 d0 d1 d2 d3 ena
 
* c:\fossee\esim\library\subcircuitlibrary\2to4decoderv1\2to4decoderv1.cir
.include andgatev1.sub
.include notgatev1.sub
x1 vdd in1 net-_x1-pad3_ notgatev1
x2 vdd in2 net-_x2-pad3_ notgatev1
x3 vdd net-_x1-pad3_ net-_x2-pad3_ ena d0 andgatev1
x4 vdd in1 net-_x2-pad3_ ena d1 andgatev1
x5 vdd in2 net-_x1-pad3_ ena d2 andgatev1
x6 vdd in2 in1 ena d3 andgatev1
* Control Statements

.ends 2to4decoderv1