* c:\users\prem\esim-workspace\comb_testv1\comb_testv1.cir
.lib "sky130_fd_pr/models/sky130.lib.spice" tt

.include notgatev1.sub
.include andgatev1.sub
x1 vdd in1 in2 ena net-_x1-pad5_ andgatev1
x2 vdd net-_x1-pad5_ out notgatev1

Vdd vdd 0 3.3
Vin_1 ena 0 3
Vd0 in1 0 pulse(0 3 0s 0s 0s 5us 10us)
Vd1 in2 0 pulse(0 3 0s 0s 0s 10us 20us)

.tran 0.1us 20us

* Control Statements 
.control
run
plot V(in1) V(in2)+5 V(ena)+10 V(out)+15
.endc
.end
