* Subcircuit notgatev1
.subckt notgatev1 vdd not_input not_output
 
* c:\fossee\esim\library\subcircuitlibrary\notgatev1\notgatev1.cir
xm2  not_output not_input gnd gnd sky130_fd_pr__nfet_01v8 w=.42 l=.5
xm1  not_output not_input vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5
* Control Statements

.ends notgatev1