* c:\users\prem\esim-workspace\4to16decoderv1\4to16decoderv1.cir

.include 2to4decoderv1.sub
x1 /vdd /in3 /in2 net-_x1-pad4_ net-_x1-pad5_ net-_x1-pad6_ net-_x1-pad7_ /ena 2to4decoderv1
x2 /vdd /in1 /in0 /d0 /d1 /d2 /d3 net-_x1-pad4_ 2to4decoderv1
x3 /vdd /in1 /in0 /d4 /d5 /d6 /d7 net-_x1-pad5_ 2to4decoderv1
x4 /vdd /in1 /in0 /d8 /d9 /d10 /d11 net-_x1-pad6_ 2to4decoderv1
x5 /vdd /in1 /in0 /d12 /d13 /d14 /d15 net-_x1-pad7_ 2to4decoderv1
* u1  /vdd /in3 /in2 /ena /in1 /in0 /d0 /d1 /d2 /d3 /d4 /d5 /d6 /d7 /d8 /d9 /d10 /d11 /d12 /d13 /d14 /d15 port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
