* Subcircuit notgatev1
.subckt notgatev1 /vdd /not_input /not_output 
* c:\fossee\esim\library\subcircuitlibrary\notgatev1\notgatev1.cir
m2  /not_output /not_input gnd gnd mosfet_n
m1  /not_output /not_input /vdd /vdd mosfet_p
* Control Statements

.ends notgatev1